US08071581B2
Step 2: Preparation of (3-bromo-7-fluoro-quinolin-6-yl)-acetic acid
A suspension of (3-bromo-7-fluoro-quinolin-6-yl)-acetic acid methyl ester (13.9 g, 46.6 mmol) in 72 mL of aqueous NaOH (2N) was heated to reflux for 2 hrs then cooled to r.t. The mixture was washed with dichloromethane (50 mL×2) and the aqueous phase acidified with 5N hydrochloric acid to pH 4. The white precipitate was collected via filtration, washed with water and dried. 11.0 g of the title compound was obtained as white powder in 83.3% yield. 1H NMR (DMSO-d6): δ 12.64 (s, 1H), 8.94˜8.95 (d, 1H), 8.72˜8.72 (m, 1H), 7.94˜7.97 (d, 1H), 7.77˜7.81 (d, 1H), 3.85 (s, 2H). LC-MS: 283.9 (M++1).

reactant | (3-bromo-7-fluoro-quinolin-6-yl)-acetic acid methyl ester | 46.6 mmol, 13.9 g | COC(CC=1C=C2C=C(C=NC2=CC1F)Br)=O | C12H9BrFNO2
solvent | NaOH | 2N, 72 mL | [OH-].[Na+]
product | (3-bromo-7-fluoro-quinolin-6-yl)-acetic acid | 11.0 g, 83.3% yield | BrC=1C=NC2=CC(=C(C=C2C1)CC(=O)O)F | C11H7BrFNO2
